US07091214B2
The method described in Part J of Example 365 was used to oxidize and aminate 7-bromo-2-ethoxymethyl-1-(tetrahydropyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline (9.3 g, 23.0 mmol). 3-Chloroperoxybenzoic acid (7.9 g of 50% pure material, 23 mmol) was added in five portions during the oxidation step, which was stirred overnight. Additional 3-chloroperoxybenzoic acid (200 mg) was added, and the reaction was stirred for 20 mintues before ammonium hydroxide (60 mL) and p-toluenesulfonyl chloride (6.58 g, 34.5 mmol) were added. The crude product was obtained as an oil, which was treated with acetonitrile to form a precipitate. The precipitate was isolated by filtration and purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 80:20) to provide 6.0 g of 7-bromo-2-ethoxymethyl-1-(tetrahydropyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 186–188° C.

reactant | 7-bromo-2-ethoxymethyl-1-(tetrahydropyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline | 23.0 mmol, 9.3 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCOCC3)COCC | C19H22BrN3O2
reactant | 3-Chloroperoxybenzoic acid | 23 mmol, 7.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 60 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 34.5 mmol, 6.58 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 3-chloroperoxybenzoic acid | 200 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-bromo-2-ethoxymethyl-1-(tetrahydropyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 6.0 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)COCC | C19H23BrN4O2
